US07179801B2
To a solution of 4-(3-aminopropyl)-1-methyl-5-tritylamino-1H-pyrazole (75 g) in tetrahydrofuran (700 ml) was added di-tert-butyl dicarbonate (49.5 g). The reaction mixture was stirred at room temperature for 3 hours. After evaporation of the solvent in vacuo, the residue was triturated with diisopropyl ether and dried in vacuo to give tert-butyl 3-[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]propylcarbamate (71.7 g).

reactant | 4-(3-aminopropyl)-1-methyl-5-tritylamino-1H-pyrazole | 75 g | NCCCC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C26H28N4
reactant | di-tert-butyl dicarbonate | 49.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
product | tert-butyl 3-[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]propylcarbamate | 71.7 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCCNC(OC(C)(C)C)=O | C31H36N4O2
